US08664220B2
Step 1: N-(1-{4′-[4-(6-Benzyl-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide
1-{4′-[4-(6-benzyl-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid (sodium salt; 0.050 g, 0.083 mmol), carbonyldiimidazole (0.0676 g, 0.417 mmol), MeSO2NH2 (0.0789 g, 0.83 mmol) and DBU (0.0248 mL, 0.166 mmol) were combined in THF (1 mL) and the mixture was heated to 70° C. in a capped vial for 25 hours. The mixture was purified by preparative HPLC to yield the title compound.

reactant | 1-{4′-[4-(6-benzyl-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | 0.083 mmol, 0.050 g | C(C1=CC=CC=C1)C1=CC=CC(=N1)NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O)C | C32H27N3O3
reactant | carbonyldiimidazole | 0.417 mmol, 0.0676 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | MeSO2NH2 | 0.83 mmol, 0.0789 g | CS(=O)(=O)N | CH5NO2S
reactant | DBU | 0.166 mmol, 0.0248 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(1-{4′-[4-(6-Benzyl-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide | C(C1=CC=CC=C1)C1=CC=CC(=N1)NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C33H30N4O4S
